data/oMe_Silver.jsonl
{"reaction_id": "NG-007_1-c1cnccc1_2-c1ccc(F)cc1_3-c1sc(Br)cc1","name": "Appel reaction","level": "medium","reactants_smiles": ["C(c1cnccc1)(c1ccc(F)cc1)(c1sc(Br)cc1)O"],"products_smiles": ["C(c1cnccc1)(c1ccc(F)cc1)(c1sc(Br)cc1)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(c1cnccc1)(c1ccc(F)cc1)(c1sc(Br)cc1).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(c1cnccc1)(c1ccc(F)cc1)(c1sc(Br)cc1))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1cnccc1)(c1ccc(F)cc1)(c1sc(Br)cc1)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
{"reaction_id": "NR-112_1-Br_2-OC_3-Cl_4-C(F)(F)F_5-c2ccc(F)cc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Br)c(OC)c(Cl)c1C(F)(F)F","C(c2ccc(F)cc2)#N"],"products_smiles": ["c1(C(=O)c2ccc(F)cc2)c(O)c(Br)c(OC)c(Cl)c1C(F)(F)F"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccc(F)cc2)C(=[OH+])c(Br)c(OC)c(Cl)c1C(F)(F)F","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccc(F)cc2)c(O)c(Br)c(OC)c(Cl)c1C(F)(F)F","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccc(F)cc2)c(O)c(Br)c(OC)c(Cl)c1C(F)(F)F","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccc(F)cc2)c(O)c(Br)c(OC)c(Cl)c1C(F)(F)F","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
